US07098228B2
0.048 g (1.10 mmol) Sodium hydride (55% in mineral oil) was added in one portion below 5° C. and under argon to a stirred solution of 0.261 g (1.00 mmol) rac-2-ethoxy-3-(1H-indol-4-yl)-propionic acid ethyl ester and 0.321 g (1.20 mmol) 4-chloromethyl-2-(3,5-dimethoxy-phenyl)-5-methyl-oxazole in 15.0 ml N,N-dimethylformamide. The reaction mixture was warmed up to room temperature and then stirred for 16 hours at ambient temperature. It was then diluted with cold water and extracted two times with ethyl acetate. The combined organic phases were dried over MgSO4, filtered and evaporated. The residue formed was purified by flash-chromatography (silica gel; eluent: gradient of hexane and ethyl acetate) to give 0.413 g (84%) rac-3-{1-[2-(3,5-dimethoxy-phenyl)-5-methyl-oxazol-4-ylmethyl]-1H-indol-4-yl}-2-ethoxy-propionic acid ethyl ester as light yellow solid.

reactant | Sodium hydride | 1.10 mmol, 0.048 g | [H-].[Na+]
reactant | rac-2-ethoxy-3-(1H-indol-4-yl)-propionic acid ethyl ester | 1.00 mmol, 0.261 g | C(C)OC(C(CC1=C2C=CNC2=CC=C1)OCC)=O | C15H19NO3
reactant | 4-chloromethyl-2-(3,5-dimethoxy-phenyl)-5-methyl-oxazole | 1.20 mmol, 0.321 g | ClCC=1N=C(OC1C)C1=CC(=CC(=C1)OC)OC | C13H14ClNO3
solvent | N,N-dimethylformamide | 15.0 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | rac-3-{1-[2-(3,5-dimethoxy-phenyl)-5-methyl-oxazol-4-ylmethyl]-1H-indol-4-yl}-2-ethoxy-propionic acid ethyl ester | 0.413 g, 84% | C(C)OC(C(CC1=C2C=CN(C2=CC=C1)CC=1N=C(OC1C)C1=CC(=CC(=C1)OC)OC)OCC)=O | C28H32N2O6
